US06127354
(3R)-3-((2-Naphthyl)methyl)piperazin-2-one (1.9 g; 7.9 mmol) and di-tert-butyl dicarbonate (2.1 g; 9.5 mmol) was suspended in a mixture of THF (20 ml) and aqueous sodium hydroxide (1M, 8 ml) and stirred overnight. The solvent was removed in vacuo and water (30 ml) was added. The aqueous phase was extracted with ethyl acetate (2×50 ml). The combined organic phases were dried (magnesium sulphate) and the solvent was removed in vacuo. The residue was dissolved in a mixture of DMSO (15 ml) and potassium hydroxide (1.3 g). (2-bromoethyl)benzene (2.2 g, 11 mmol) was added and the mixture was stirred for 1 h. Water (30 ml) and methylene chloride (60 ml) were added. The organic phase was washed with water (5×10 ml) and the solvent was removed in vacuo. The residue was chromatographed on silica (3×40 cm) using ethyl acetate/heptane (1:2) as eluent to afford 1.25 g of (2R)-2-(2-naphthyl)methyl-3-oxo-4-phenethylpiperazine-1-carboxylic acid tert-butyl ester.

reactant | (3R)-3-((2-Naphthyl)methyl)piperazin-2-one | 7.9 mmol, 1.9 g | C1=C(C=CC2=CC=CC=C12)C[C@@H]1C(NCCN1)=O | C15H16N2O
reactant | di-tert-butyl dicarbonate | 9.5 mmol, 2.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 1M, 8 ml | [OH-].[Na+]
reactant | (2-bromoethyl)benzene | 11 mmol, 2.2 g | BrCCC1=CC=CC=C1 | C8H9Br
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 30 ml | O | H2O
product | (2R)-2-(2-naphthyl)methyl-3-oxo-4-phenethylpiperazine-1-carboxylic acid tert-butyl ester | 1.25 g | C(C)(C)(C)OC(=O)N1[C@@H](C(N(CC1)CCC1=CC=CC=C1)=O)CC1=CC2=CC=CC=C2C=C1 | C28H32N2O3
